US09334271B2
a) 8-Bromo-2-chloro-6-((R)-3-methyl-morpholin-4-yl)-9H-purine
To a solution of 2-chloro-6-((R)-3-methyl-morpholin-4-yl)-9H-purine (950 mg, 3.74 mmol) in CH2Cl2(19 mL) was added bromine (0.23 mL, 4.49 mmol). The mixture was stirred at ambient temperature for 19 hours. Saturated sodium thiosulfate was added. The aqueous layer was extracted with dichloromethane two times. Organic layers were combined and dried over Na2SO4 and solvent was removed under reduced pressure. The crude was purified by flash column chromatography (0-70% EtOAc/cyclohexane gradient) to furnish product as a white solid (495 mg, 39%). LC-MS at 254 nm; [M+H] 334.1; Rt 0.89 min; (LCMS method 1).

reactant | 2-chloro-6-((R)-3-methyl-morpholin-4-yl)-9H-purine | 3.74 mmol, 950 mg | ClC1=NC(=C2N=CNC2=N1)N1[C@@H](COCC1)C | C10H12ClN5O
reactant | bromine | 4.49 mmol, 0.23 mL | BrBr | Br2
reactant | sodium thiosulfate | S(=S)(=O)([O-])[O-].[Na+].[Na+]
solvent | CH2Cl2 | 19 mL | C(Cl)Cl | CH2Cl2
product | 8-Bromo-2-chloro-6-((R)-3-methyl-morpholin-4-yl)-9H-purine | 495 mg, 39% | BrC=1NC2=NC(=NC(=C2N1)N1[C@@H](COCC1)C)Cl | C10H11BrClN5O
